Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Potassium
 
Attending: ___
 
Chief Complaint:
Renal insufficiency and anemia 
 
Major Surgical or Invasive Procedure:
-Trans-esophageal echo
-Foley catheter placement (has been removed)

 
History of Present Illness:
Mr. ___ is a ___ yo male with PMH of HTN, DM, AS, endocarditis 
presenting from his nursing home with complaints of fatigue, 
worsened renal failure and anemia. Mr. ___ reports UE 
fatigue and F/C on the day before admission (no documented 
fever). He denies CP, SOB, HA, abd pain, BRBPR, melena, URI 
symptoms, focal numbness/weakness/tingling, urinary retention. 
He did report feeling dehydrated and having received little PO 
recently. He has occasional orthostatic symptoms. He also 
complains of dyspepsia with overeating at the ___. In the ED, 
vitals were 99.1 (97.3) 78 117/48 RR 18 98%RA. EKG showed stable 
RBBB, 1st degree AVB, no STTW changes.  
 
Past Medical History:
1. Hypertension  
2. Hypercholesterolemia  
3. Diabetes type 2  
4. Severe Aortic stenosis  
4. Conduction system disease (1 AVB, RBBB)  
5. Bradycardia prohibiting Beta Blocker  
6. Right carotid stenosis (50% on ultrasound ___  
7. Colon cancer - s/p resection  
8. CAD s/p 4V CABG in ___  
 
Social History:
___
Family History:
Father w/ CAD and two prior MIs; mother with unknown "heart" 
condition  
 
Physical Exam:
vitals: 96.3 132/54 72 16 100%2L  
gen: well appearing, nad  
heent: ncat, mmd, eomi, no scleral icterus, R surgical pupil, L 
pupil 3mm and minimally reactive to light  
neck: no elevated jvd, no LAD/masses/TMG  
pulm: ctab, no w/r/r  
cv: hrrr, ___ SEM > at LUSB  
abd: s/nt/nd/nabs  
extr: no c/c/e  
neuro: aox2, cn ___ intact, strength ___ in all muscle groups, 
sensation intact throughout.  

 
Pertinent Results:
On admission:
140  106  75
------------<136
4.2  22  1.7  

     7.4  86
9.3>----<167
    21.5

Labs during admission:
Hct 29.2 at discharge (26.5 on ___ with 1 U pRBCs given)
Retics 2.5%, haptoglobin 96
Creatinine 1.5 at discharge
SPEP negative, UPEP negative

Microbiology:
Urine culture (___): no growth
Blood culture (___): no growth to date

Imaging:
* TTE (___): The left atrium is moderately dilated. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global systolic function (LVEF>55%). No masses 
or thrombi are seen in the left ventricle. Right ventricular 
chamber size and free wall motion are normal. No large masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality and heavy valve 
calcification. There is moderate to severe aortic valve stenosis 
(area 0.8 cm2). Moderate (2+) aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. There is systolic 
anterior motion of the mitral valve leaflets. Moderate (2+) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Moderate [2+] tricuspid regurgitation is seen. 
There is moderate pulmonary artery systolic hypertension. There 
is a trivial/physiologic pericardial effusion. IMPRESSION: Mild 
symmetric left ventricular hypertrophy with preserved global and 
regional biventricular systolic function. Moderate to severe 
calcific aortic stenosis. Moderate aortic regurgitation. 
Moderate mitral regurgitation. Moderate tricuspid regurgitation. 
Moderate pulmonary hypertension. Compared with the prior study 
(images reviewed) of ___, severity of mitral, aortic, and 
tricuspid regurgitation has increased. The other findings appear 
similar.  

* TEE (___): Mild spontaneous echo contrast is seen in the body 
of the left atrium and left atrial appendage. No mass/thrombus 
is seen in the left atrium or left atrial appendage. No atrial 
septal defect is seen by 2D or color Doppler. Overall left 
ventricular systolic function is normal. Right ventricular 
chamber size and free wall motion are normal. There are complex 
(>4mm) atheroma in the aortic arch. There are simple atheroma in 
the descending thoracic aorta. There are three aortic valve 
leaflets, which are severely thickened/deformed. A small (0.5 x 
0.4 cm) echodense, slightly mobile mass is seen on the aortic 
valve, which prolapses into the left ventricular outflow tract 
during diastole, suggestive of a chronic vegetation or severe 
degenerative disease of the aortic valve. Significant aortic 
stenosis is present (not quantified). An eccentric, 
anteriorly-directed jet of moderate (2+) aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. Moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. No vegetation/mass is seen on the pulmonic valve. 
There is no pericardial effusion. IMPRESSION: Probable aortic 
valve endocarditis. Significant calcific aortic stenosis. 
Moderate aortic regurgitation. Moderate mitral regurgitation. No 
intracardiac thrombus seen.  

* CT head (___): Limited study secondary to exaggerated 
cervical lordosis, and difficulty positioning normally within 
the scanner. Focal right parietal hypodensity could represent 
subacute or chronic infarction, but without prior comparisons, 
chronicity cannot be determined. Alternatively, this could 
represent extension of chronic microangiopathic change, although 
there is relatively little similar change seen elsewhere in the 
brain. Least likely would be edema from an underlying lesion. 
MRI recommended for further characterization.

* MRI/MRA (___): Acute infarction in the right parietal lobe. 
Markedly limited MRA, no definite area of high-grade stenosis 
seen.

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of CAD s/p 4 
vessel CABG, severe aortic stenosis, type 2 DM, HTN and chronic 
anemia presenting with a drop in hematocrit and decreased urine 
output according to reports from his nursing home, now with new 
right parietal infarction but now focal neuro deficits.  
.  
#) CVA- On the evening of ___ the patient noted a new 
headache, slurred speech and left sided weakness.  An MRI 
revealed an acute area of R parietal infarction.  He was 
evaluated by neurology and placed on aspirin.  This area of 
infarction likely represents embolic stroke from uncertain 
source (carotid artery vs aortic valve vs complex atheroma on 
aortic arch), could also represent septic embolus given possible 
aortic valve vegetation identified on TEE (mass is mobile and 
prolapses and could be vegetation or calcium from degerative 
valvular disease).  TEE also revealed complex atheroma in aortic 
arch, and the patient was placed on plavix in place of aspirin 
as per neuro recs.  Consideration may be considered to give him 
both aspirin and plavix. The Neurology team also recommends 
considering beginning anticoagulation in this patient with 
multiple risk factors with a goal INR of ___ once the IV 
vancomycin course has been completed; however the risks of 
anticoagulation should be weighed against his risk of further 
bleeding from the GI tract.  At this time the patient is without 
focal neurological deficits. He should follow up with Dr. ___ 
in the department of Neurology in approximately one month; 
please call ___ for an appointment.
.  
#) Anemia- The patient has a known chronic anemia and is guaiac 
positive during this admission. He has been evaluated by the 
gastroenterology team in the past without definite source found. 
During this admission, the patient has received 4 units PRBC 
with an improvement in Hct from 21.5 to 29.2 on the day of 
discharge. Prior to discharge, the patient was changed from 
aspirin 81 mg to plavix 75 mg at the recommendation of 
Neurology. He should be monitored for any worsening GI bleeding 
as the plavix may place him at increased risk (compared to 
aspirin alone). He is no longer complaining of any weakness.
.  
#) Renal failure- Evidence of both pre- and post-renal 
components, with reported decreased PO intake and BPH causing 
urinary retention.  BUN and Cr improving and is currently at 
baseline, vancomycin being dosed at appropriate renal level.  
Finasteride was continued for BPH, and diuretics were held for 
volume repletion.  A foley catheter was placed and in's and 
out's were monitored.  ___ was D/C'ed on ___ with adequate 
urine output noted after it was removed.  A decreased dose of 
lisinopril was restarted at discharge. A creatinine should be 
checked with his other labs within a few days of going to rehab.
.  
#) Leukocytosis- patient has had white count fluctuating between 
8 and 12 since admission. He is afebrile, without focal signs of 
infection, NGTD on blood cultures, urine culture negative, no 
cough or rhinorrhea.  
.  
#) CHF- ___ aortic stenosis. Patient currently euvolemic, is 
aware of condition and has refused surgery in the past.  EF on 
repeat echo this admission >55% with extensive aortic and mitral 
regurg.  Diuretics were held during hospitalization without 
signs of pulmonary or peripheral edema. Should consider 
restarting lasix once blood pressures stable. He should follow 
up with his cardiologist regarding these medication changes 
within one to two months.
.  
#) Endocarditis- the patient was started on IV vancomycin during 
his previous hospital admission when he was found to have strep 
viridans bacteremia (patient with penicillin allergy), though 
vegetation was never definitively seen on TTE.  Repeat TEE on 
this admission showed a mass that may be an aortic vegetation.  
The patient was previously receiving IV vancomycin, renally 
dosed at 1000 mg Q48H.  As creatinine improved, vancomycin 
dosing changed to q24h. Last day of vancomycin to be ___.  
He has infectious disease follow-up as per discharge planning.
.  
#) HTN- Antihypertensive medications were held immediately 
following confirmation of CVA for goal systolic blood pressure > 
140 to maintain cerebral perfusion. At discharge, after 
discussion with Neurology fellow, lisinopril 10 mg daily 
restarted. He should have a repeat creatinine and electrolyte 
check on ___ with lisinopril dose adjusted accordingly. His 
goal blood pressure for the next 2 weeks should be 130 systolic. 
Other antihypertensives can be restarted on a phased basis (one 
at a time) over the next ___ weeks.
.  
#) DM type 2- well-controlled, complicated by mild peripheral 
neuropathy (decreased vibration sense on R vs L).  Glucose has 
been controlled by sliding scale insulin as inpatient, and can 
restart glyburide at rehab.  SSI should continue at rehab.
.  
#) Hypercholesterolemia- patient was continued on home meds 
(simvastatin 20 mg daily) 
.  
#) Dyspepsia/GERD- patient was complaining of reflux at nursing 
home, placed on PPI with improvement. 
.   
#)Prophylaxis- heparin SC while nonambulatory, PPI, bowel 
regimen  
.
Rehab:
[ ] please check hematocrit on day after admission and twice per 
week thereafter
[ ] please hold prazosin, isosorbide, and lasix at this time, 
goal BP for this week is 130/70, please evaluate BP one week 
from today and consider reinstating at that time 
[ ] please check electrolytes and creatinine on ___.  Adjust 
lasix and lisinopril accordingly.
 
Medications on Admission:
- Aspirin 81 mg PO DAILY  
- Docusate Sodium 100 mg PO BID  
- Ferrous Sulfate 300 mg/5 mL 5 mL PO TID  
- Finasteride 5 mg PO DAILY  
- Furosemide 20 mg PO DAILY  
- Isosorbide Dinitrate 10 mg PO TID  
- Lisinopril 40 mg PO qday  
- Prazosin 10 mg PO BID  
- Psyllium ___ Packets PO BID  
- Heparin (Porcine) 5,000 unit/mL One (1) mL Injection TID  
- Lorazepam 1 mg PO HS  
- Trazodone 25 mg PO HS prn  
- Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1)  
gram Intravenous once a day for 5 weeks: to end on ___.  
- Glyburide 1.25mg PO qday  
- Simvastatin 20 mg PO qday  
- Omeprazole 20 mg PO bid  
- Magnesium Hydroxide 400 mg/5 mL Thirty ML PO Q6H prn  

 
Discharge Medications:
1. Ferrous Sulfate 300 mg/5 mL Liquid Sig: One (1)  PO three 
times a day.  
2. Docusate Sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day).  
3. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous every ___ hours for 2 days: To end on 
___.  
4. Psyllium     Packet Sig: ___ Packets PO BID (2 times a day) 
as needed.  
5. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
6. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed.  
7. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed.  
9. Glyburide 1.25 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
11. Heparin (Porcine) 5,000 unit/mL Syringe Sig: One (1)  
Injection three times a day: until fully ambulatory.  
12. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
mL PO every six (6) hours as needed.  
14. labwork
HCT on the day after admission to skilled nursing facility and 
then twice weekly thereafter.  Transfuse for HCT less than 27.
15. labwork
creatinine with electrolytes on ___.  Adjust lisinopril 
accordingly.
16. insulin sliding scale
as per attached sheet
17. Finasteride 5 mg Tablet Sig: One (1) Tablet PO once a day.  
18. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
- Anemia
- Right parietal stroke
- Strep viridans bacteremia with presumed endocarditis
.
Secondary diagnosis
-Aortic stenosis
-BPH
-HTN
-hypercholesterolemia
-type 2 DM

 
Discharge Condition:
Stable, ambulating with assistance

 
Discharge Instructions:
You were admitted for continued evaluation of your anemia 
because your hematocrit was found to be 21.  You received 4 
units of packed red blood cells and your anemia improved.  
.
You were continued on the IV antibiotics (vancomycin) that you 
have been taking for treatment of endocarditis. 
.
You experienced a stroke in your right parietal lobe and had an 
echocardiogram to determine the source of the stroke.  You were 
placed on Plavix for prevention of further clot formation.  
Because of the stroke, your goal blood pressure will be higher 
for the time being.  Because of this, your lisinopril was 
decreased, your prazosin was held, and your isosorbide dinitrate 
and lasix were held.  You should discuss these as well as 
aspirin, plavix, and anticoagulation with Dr. ___.
.
You should call your primary care provider or return to the 
emergency department if you notice numbness/weakness/tingling 
anywhere in your body, difficulty speaking, headache, loss of 
consciousness/sleepiness, fatigue, shortness of breath, chest 
pain, lightheadedness, fever greater than 101.4 degrees F, or 
any other symptoms that concern you.
 
Followup Instructions:
___